US06013658
((1R)-2-(2-Naphthyl)-1-(phenethylcarbamoyl)ethyl)carbamic acid tert-butyl ester (2.20 g, 5.26 mmol) was dissolved in dry THF (50 ml). Triphenylphosphine (2.76 g; 10.52 mmol) diethylazodicarboxylate (1.66 g, 10.52 mmol) and trimethylsilyl azide (1.22 g; 10.52 mmol) were added. The mixture was stirred overnight at room temperature. Ammonium ceric nitrate (23.06 g; 21.04 mmol) was dissolved in water (400 ml) and added dropwise to the reation mixture. THF (120 ml) was added and the reaction mixture was extracted with methylene chloride (3×300 ml). The organic phase was dried (magnesium sulfate) and the solvent was removed in vacuo. The residue was chromatographed on silica (5×40 cm) using ethyl acetate/heptane as eluent (1:1) to afford 0.30 g of ((1R)-2-(2-naphthyl)-1-(1-phenethyl-1H-tetrazol-5-yl)ethyl)carbamic acid tert-butylester.

reactant | ((1R)-2-(2-Naphthyl)-1-(phenethylcarbamoyl)ethyl)carbamic acid tert-butyl ester | 5.26 mmol, 2.20 g | C(C)(C)(C)OC(N[C@H](CC1=CC2=CC=CC=C2C=C1)C(NCCC1=CC=CC=C1)=O)=O | C26H30N2O3
reactant | Triphenylphosphine | 10.52 mmol, 2.76 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 10.52 mmol, 1.66 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | trimethylsilyl azide | 10.52 mmol, 1.22 g | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | Ammonium ceric nitrate | 21.04 mmol, 23.06 g | [N+](=O)(O)[O-].[N+](=O)(O)[O-].[N+](=O)(O)[O-].[N+](=O)(O)[O-].[N+](=O)(O)[O-].[N+](=O)(O)[O-].[Ce]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | water | 400 ml | O | H2O
solvent | THF | 120 ml | C1CCOC1 | C4H8O
product | ((1R)-2-(2-naphthyl)-1-(1-phenethyl-1H-tetrazol-5-yl)ethyl)carbamic acid tert-butylester | 0.30 g | C(C)(C)(C)OC(N[C@H](CC1=CC2=CC=CC=C2C=C1)C1=NN=NN1CCC1=CC=CC=C1)=O | C26H29N5O2
